US04775674
2-[(2,3-Dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]ethyl Acetate
This compound, m.p. 299°-302° C. (dec.), was prepared analogous to Example 10 (using acetonitrile in place of methanol for the iodine treatment) from 2-[3-[(2,4-dioxoimidazolidin-5-ylidene)methyl]-4-nitrophenoxy]ethyl acetate.

reactant | iodine | II | I2
reactant | 2-[3-[(2,4-dioxoimidazolidin-5-ylidene)methyl]-4-nitrophenoxy]ethyl acetate | C(C)(=O)OCCOC1=CC(=C(C=C1)[N+](=O)[O-])C=C1C(NC(N1)=O)=O | C14H13N3O7
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-[(2,3-Dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]ethyl Acetate | C(C)(=O)OCCOC1=CC=2C=C3C(=NC2C=C1)NC(N3)=O | C14H13N3O4
